US06881733B1
5-chloro-7-bromobenzofuran
Beginning with 25 gm (120.5 mMol) 2-bromo-4-chlorophenol, 41.16 gm crude 2-(2-bromo-4-chlorophenoxy)acetaldehyde diethyl acetal was prepared essentially as described in Preparation IV. A sample of this crude material was subjected to silica gel chromatography to provide an analytical sample.

reactant | 2-bromo-4-chlorophenol | 120.5 mMol, 25 gm | BrC1=C(C=CC(=C1)Cl)O | C6H4BrClO
reactant | 2-(2-bromo-4-chlorophenoxy)acetaldehyde diethyl acetal | 41.16 gm | C(C)OC(COC1=C(C=C(C=C1)Cl)Br)OCC | C12H16BrClO3
product | 5-chloro-7-bromobenzofuran | ClC=1C=C(C2=C(C=CO2)C1)Br | C8H4BrClO
